US06579875B1
c) 6-Chloro-7-cyclobutyl-3-(3,5-difluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
Ferric chloride (3.423 g, 12.66 mmol) in ethanol (15 ml) was added dropwise to a solution of N-(6-chloro-5-cyclobutylpyridazin-3-yl)-N′-(3,5-difluorobenzylidene)hydrazine (0.816 g, 2.53 mmol) in ethanol (35 ml) and heated at 70° C. After 3 hours the reaction mixture was partitioned between dichloromethane (250 ml) and brine (250 ml). The organic phase was dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with ethyl acetate-hexane mixtures to afford the title pyridazite (0.51 g, 63%). 1H NMR (250 MHz, CDCl3) 1.84-2.08 (1H, m), 2.08-2.36 (3H, m), 2.42-2.68 (2H, m), 3.65-3.87 (1H, m), 6.88-7.06 (1H, m), 8.01 (1H, s), 8.04-8.21 (2H, m). MS (ES+) 321 [MH]+, 323 [MH]+.

reactant | N-(6-chloro-5-cyclobutylpyridazin-3-yl)-N′-(3,5-difluorobenzylidene)hydrazine | 2.53 mmol, 0.816 g | ClC1=C(C=C(N=N1)NN=CC1=CC(=CC(=C1)F)F)C1CCC1 | C15H13ClF2N4
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 6-Chloro-7-cyclobutyl-3-(3,5-difluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC(=CC(=C2)F)F)C2CCC2 | C15H11ClF2N4
